US07652041B2
Step 3. Preparation 4-[4-(3-{[4-chloro-3-(trifluoromethyl)phenyl]amino}-3-oxopropyl)phenoxy]pyridine-2-carboxamide (A-3)
A solution of 3-(4-{[2-(aminocarbonyl)pyridin-4-yl]oxy}phenyl)-propanoic acid (200 mg, 0.70 mmol), HATU (319 mg, 0.84 mmol), DIPEA (0.24 mL, 1.4 mmol), and 4-chloro-3-(trifluoromethyl)aniline (136 mg, 0.70 mmol) in DMF (5 mL) was stirred overnight at rt. EtOAc was added to the reaction and the mixture was washed with 1N HCl, 1N NaOH, and brine, dried over Na2SO4 and concentrated. Purification by column chromatography (SiO2, 20-100% EtOAc in hexane) followed by recrystallization in EtOAc/hexane provided A-3 (37 mg, 11%). 1H NMR (300 MHz, d6-DMSO) δ: 10.36 (s, 1H), 8.48 (d, J=5.7 Hz, 1H), 8.18 (d, J=2.5 Hz, 1H), 8.09 (bs, 1H), 7.81 (dd, J1=2.5 Hz, J2=8.8, 1H), 7.7 (bs, 1H), 7.64 (d, J=8.8 Hz, 1H), 7.35-7.40 (m, 3H), 7.12-7.16 (m, 3H), 2.97 (t, J=7.3 Hz, 2H), and 2.70 (t, J=7.8 Hz, 2H).

reactant | 3-(4-{[2-(aminocarbonyl)pyridin-4-yl]oxy}phenyl)-propanoic acid | 0.70 mmol, 200 mg | NC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)CCC(=O)O | C15H14N2O4
reactant | HATU | 0.84 mmol, 319 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.4 mmol, 0.24 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chloro-3-(trifluoromethyl)aniline | 0.70 mmol, 136 mg | ClC1=C(C=C(N)C=C1)C(F)(F)F | C7H5ClF3N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[4-(3-{[4-chloro-3-(trifluoromethyl)phenyl]amino}-3-oxopropyl)phenoxy]pyridine-2-carboxamide | ClC1=C(C=C(C=C1)NC(CCC1=CC=C(OC2=CC(=NC=C2)C(=O)N)C=C1)=O)C(F)(F)F | C22H17ClF3N3O3
